US07429609B2
3-(Naphthalen-2-yl)-1H-thieno[2,3-c]pyrazole-5-carboxylic acid
To a solution of 33 mg of 3-(naphthalen-2-yl)-1H-thieno[2,3-c]pyrazole-5-carbonitrile in 1.0 mL of acetic acid and 0.3 mL of water was added 0.3 mL of concentrated sulfuric acid at room temperature and stirred at 110° C. for a day. After cooling the solution to room temperature, 10 mL of ice water was added, and the precipitated crystals were collected by filtration and washed with water, to afford 33 mg of the title compound as pale brown crystals.

reactant | 3-(naphthalen-2-yl)-1H-thieno[2,3-c]pyrazole-5-carbonitrile | 33 mg | C1=C(C=CC2=CC=CC=C12)C=1C2=C(NN1)SC(=C2)C#N | C16H9N3S
reactant | sulfuric acid | 0.3 mL | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
solvent | water | 0.3 mL | O | H2O
product | 3-(Naphthalen-2-yl)-1H-thieno[2,3-c]pyrazole-5-carboxylic acid | 33 mg | C1=C(C=CC2=CC=CC=C12)C=1C2=C(NN1)SC(=C2)C(=O)O | C16H10N2O2S
